US09108953B2
A mixture of 3-bromo-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2-dihydroquinoline-5-sulfonamide (16 mg, 0.034 mmol), zinc cyanide (20 mg, 5 equiv), Pd(PPh3)4 (4 mg, 10 mol %) and DMF was heated at 135° C. for 2 hours. The reaction mixture was purified by preparative HPLC to give 3-cyano-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2-dihydroquinoline-5-sulfonamide.

reactant | 3-bromo-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2-dihydroquinoline-5-sulfonamide | 0.034 mmol, 16 mg | BrC=1C(NC=2C=C(C=C(C2C1)S(=O)(=O)NC1CCCC1)C=1C(=NOC1C)C)=O | C19H20BrN3O4S
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 20 mg, 5 equiv | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-cyano-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2-dihydroquinoline-5-sulfonamide | C(#N)C=1C(NC=2C=C(C=C(C2C1)S(=O)(=O)NC1CCCC1)C=1C(=NOC1C)C)=O | C20H20N4O4S
